US07351857B2
A 3-neck flask, equipped with a reflux condensor and mechanical stirrer, is charged with EtOH (98 mL) and dimethylthiocarbamic acid S-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)indan-5-yl] ester (6.9 g; 20.6 mmol). Hydrazine (5.8 mL; 186 mmol) is added in 1-portion at RT and the reaction was refluxed with mechanical stirring for 30 min. The reaction is cooled to RT and the gelatinous, white solid is filtered and washed with ether several times. The ether washes are combined, evaporated under reduced pressure and the crude residue was further triturated with ether, filtered and the ether evaporated under reduced pressure to afford 4.6 g (95%) of dimethylthiocarbamic acid S-[2-aminoindan-5-yl) ester as a brown oil.

reactant | dimethylthiocarbamic acid S-[2-(1,3-dioxo-1,3-dihydroisoindol-2-yl)indan-5-yl] ester | 20.6 mmol, 6.9 g | O=C1N(C(C2=CC=CC=C12)=O)C1CC2=CC=C(C=C2C1)SC(N(C)C)=O | C20H18N2O3S
reactant | Hydrazine | 186 mmol, 5.8 mL | NN | H4N2
solvent | EtOH | 98 mL | CCO | C2H6O
product | dimethylthiocarbamic acid S-[2-aminoindan-5-yl) ester | 4.6 g, 95% | NC1CC2=CC=C(C=C2C1)SC(N(C)C)=O | C12H16N2OS
